Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
___ hx of recent dx of UTI recently switched to levaquin on ___ 
___s recent prolonged antibiotics of vanc/cefepime for 
discitis ___ who p/w frequent episodes of watery 
nonbloody stools, with diffuse abdominal pain; had intermittent 
soft stools over the past week while taking another unknown 
antibiotic but was noted to have elevated leukocytosis two days 
ago so switched to levaquin, today developed abdominal pain, 
diarrhea; denies fever , chills; + nausea no emesis; no urinary 
symptoms;  
In the ED, initial vitals were: 99.8 110 138/70 18 97% RA. Labs 
were significant for WBC 25.6 (82%N) hgb 115, plts 264, Cr 1, 
Gap 12. Imaging revealed Pancolitis although with some relative 
sparing of the descending colon. Inflammatory change along the 
bladder dome, possibly secondary to sigmoid colitis; however 
correlation is suggested with urinalysis. The patient was given 
500mg IV flagyl x2, 1L NS, 100mg IVTylenol, ___ PO Vanc,  
Vitals prior to transfer were: 98.3 91 124/69 18 99% RA  
REVIEW OF SYSTEMS:  
(+) chills, Diarrhea, abd pain  
(-) cough, CP, SOB, Fvers  

 
Past Medical History:
  
PAST MEDICAL & SURGICAL HISTORY: (per OMR, unable to verify with 
patient)  
- Cefepime Toxicity requiring Dialysis  
- Non-convulsive status epilepticus  
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- osteoarthritis  
- shingles infection in ___  

 
Social History:
___
Family History:
 Son passed away due to "choking episode" per ___. ___ 
records 
 
Physical Exam:
Admission Physical Exam
Vitals: 98.1 107 133/59 98% RA  
General:Frail appearing appears uncomfortable AAOx name, ___ 
\  
___: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: tachycardic, regular  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

Discharge Physical Exam
Vitals: T:97.5 BP:120/69 P:83 R:18 O2:98% RA
General: Alert, oriented, ___ 
___: Sclera anicteric, MMM, oropharynx clear, neck supple   
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, minimially tender to palpation RLQ and LLQ > RUQ 
and LQU. Non-distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
Ext: Frail, cool lower extremities with 1+ pulses, warm upper 
extremity with 2+ pulses, no clubbing, cyanosis or edema  
Skin: variety of lentiginous markings
Neuro: AOx2, strength not assessed, general sensation in tact

 
Pertinent Results:
<<<Admission Labs

___ 04:34PM   WBC-25.6* RBC-3.61* HGB-11.5 HCT-34.9 MCV-97 
MCH-31.9 MCHC-33.0 RDW-13.6 RDWSD-48.4*
___ 04:34PM   NEUTS-82* BANDS-2 LYMPHS-8* MONOS-6 EOS-2 
BASOS-0 ___ MYELOS-0 AbsNeut-21.50* AbsLymp-2.05 
AbsMono-1.54* AbsEos-0.51 AbsBaso-0.00*
___ 04:34PM   GLUCOSE-106* UREA N-22* CREAT-1.0 SODIUM-133 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-17* ANION GAP-16
___ 04:46PM   LACTATE-1.2
___ 08:35PM URINE  RBC-1 WBC-80* BACTERIA-FEW YEAST-NONE 
EPI-3
___ 10:00 am C. difficile DNA amplification assay (Final 
___: CLOSTRIDIUM DIFFICILE. Positive for toxigenic C. 
difficile by the Illumigene DNA amplification.(Reference 
Range-Negative). 

<<<Other Labs
   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

<<<Discharge Labs
___ 04:40AM BLOOD WBC-9.9 RBC-3.32* Hgb-10.6* Hct-31.6* 
MCV-95 MCH-31.9 MCHC-33.5 RDW-13.9 RDWSD-47.9* Plt ___
___ 04:40AM BLOOD Glucose-79 UreaN-12 Creat-0.8 Na-136 
K-4.3 Cl-104 HCO3-22 AnGap-14
___ 04:40AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.0

<<<Imaging 
CT A/P ___. Pancolitis although with some relative sparing of the 
descending colon. Differential considerations are infectious 
versus inflammatory.  
2. Inflammatory change along the bladder dome, possibly 
secondary to sigmoid colitis; however correlation is suggested 
with urinalysis.  
3. Moderate inferior endplated L3 compression fracture with 
visible lucency, either recent on-set or perhaps older fracture 
with poor healing response

 
Brief Hospital Course:
___ hx of recent dx of UTI recently switched to levaquin on ___ 
___s recent prolonged antibiotics of vanc/cefepime for 
discitis ___ who p/w frequent episodes of watery 
nonbloody stools, with diffuse abdominal pain; C. diff positive.

Active Issues
# Severe C. difficle colitis: met criteria for severe based on 
WBC count. Stool C. diff PCR positive; other bacterial studies 
negative. Abdominal exam remained benign and non-surgical. 
Treated with IV metronidazole and PO vancomycin while in house 
and leukocytosis downtrended. On discharge, WBC 9. Discharged 
with PO vancomycin monotherapy to continue for 14 day course 
(___). 

# Leukocytosis: secondary to C. difficle infection. Treatment as 
above. 

Chronic Issues
# Anemia: Hgb remained stable while in house at baseline ___. 
Receives outpatient transfusions, last received 2 u pRBC on 
___, prior ot admission. Attributed to chronic disease vs. 
anemia of CKD. Guaiacs negative while in house. 

# Osteoarthritis: tramadol for pain. 

*** Transitional Issues ***
- ANTIBIOTICS: will need to continue oral vancomycin for a total 
of 14 days until and including ___
- ANEMIA: to follow up with PCP and hematology for transfusions 
PRN 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Polyethylene Glycol 17 g PO DAILY 
3. Senna 8.6 mg PO BID:PRN Constipation 
4. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
5. Bisacodyl ___AILY:PRN Constipation 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Ascorbic Acid ___ mg PO BID 
8. ___ 500 mg (cranberry fruit concentrate) 500 mg oral BID 

9. Vitamin D 1000 UNIT PO BID 
10. TraMADOL (Ultram) 50 mg PO TID 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
2. Lidocaine 5% Patch 1 PTCH TD QAM 
3. TraMADOL (Ultram) 50 mg PO TID 
RX *tramadol 50 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0
4. Miconazole 2% Cream 1 Appl TP BID 
5. Vancomycin Oral Liquid ___ mg PO Q6H 
Continue taking this medication until & including ___  
6. Ascorbic Acid ___ mg PO BID 
7. Bisacodyl ___AILY:PRN Constipation 
8. ___ 500 mg (cranberry fruit concentrate) 500 mg oral BID 

9. Docusate Sodium 100 mg PO BID 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 8.6 mg PO BID:PRN Constipation 
12. Vitamin D 1000 UNIT PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: severe C. diff Colitis
Secondary diagnoses: HTN, anemia, Osteoarthritis 
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you at ___. Briefly, you were 
hospitalized due to a bacterial infection in your GI track 
called Clostridium difficile (C. diff) that caused you to have 
diarrhea. You were treated with 2 different antibiotics 
(Vancomycin and Metronidazole) and given fluids through your IV 
to help you from becoming dehydrated. 

Please continue to take your antibiotics as instructed upon 
leaving the hospital. 

Best, 
Your ___ Treatment Team
 
Followup Instructions:
___